US09056874B2
tert-Butyl 4-formyl-5-methoxy-7-methyl-1H-indole-1-carboxylate
tert-Butyl 5-methoxy-7-methyl-4-(prop-1-en-1-yl)-1H-indole-1-carboxylate (0.29 g, 0.97 mmol) was dissolved in dioxane (7.27 mL) and water (2.4 mL) and 2,6-lutidine (0.23 mL, 1.94 mmol) was added followed by osmium tetroxide (0.24 mL, 0.019 mmol) and sodium periodate (0.83 g, 3.88 mmol) at 0° C. The reaction was removed from the ice bath and let stir at room temperature for 1 hour. The reaction was diluted with methylene chloride and water. The organic layer was separated, dried over sodium sulfate and then concentrated. The resulting residue was absorbed onto silica and then purified by silica gel flash chromatography (0-50% ethyl acetate/heptanes) to provide the title compound. MS (ESI+) m/z 290.1 (M+H).

reactant | tert-Butyl 5-methoxy-7-methyl-4-(prop-1-en-1-yl)-1H-indole-1-carboxylate | 0.97 mmol, 0.29 g | COC=1C(=C2C=CN(C2=C(C1)C)C(=O)OC(C)(C)C)C=CC | C18H23NO3
reactant | water | 2.4 mL | O | H2O
reactant | 2,6-lutidine | 1.94 mmol, 0.23 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | sodium periodate | 3.88 mmol, 0.83 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | dioxane | 7.27 mL | O1CCOCC1 | C4H8O2
catalyst | osmium tetroxide | 0.019 mmol, 0.24 mL | [Os](=O)(=O)(=O)=O
product | tert-Butyl 4-formyl-5-methoxy-7-methyl-1H-indole-1-carboxylate | C(=O)C1=C2C=CN(C2=C(C=C1OC)C)C(=O)OC(C)(C)C | C16H19NO4
